US06890947B2
(S)-3-{1-[2-(3,5-Dimethoxy-phenyl)-5-methyl-oxazol-4-ylmethyl]-1H-indol-5-yl}-2-ethoxy-propionic Acid
Starting from (S)-2-ethoxy-3-(1H-indol-5-yl)-propionic acid methyl ester and 4-chloromethyl-2-(3,5-dimethoxy-phenyl)-5-methyl-oxazole, the title compound was obtained in 43% yield as a pale red solid. MS: (M−H)− 463.2.

reactant | (S)-2-ethoxy-3-(1H-indol-5-yl)-propionic acid methyl ester | COC([C@H](CC=1C=C2C=CNC2=CC1)OCC)=O | C14H17NO3
reactant | 4-chloromethyl-2-(3,5-dimethoxy-phenyl)-5-methyl-oxazole | ClCC=1N=C(OC1C)C1=CC(=CC(=C1)OC)OC | C13H14ClNO3
product | (S)-3-{1-[2-(3,5-Dimethoxy-phenyl)-5-methyl-oxazol-4-ylmethyl]-1H-indol-5-yl}-2-ethoxy-propionic Acid | 43% yield | COC=1C=C(C=C(C1)OC)C=1OC(=C(N1)CN1C=CC2=CC(=CC=C12)C[C@@H](C(=O)O)OCC)C | C26H28N2O6
